US05659059
2.5 g (20 mmol) of n-propyl bromide was dripped into a mixture of 0.5 g of magnesium (21 mmol) and 50 ml of THF to obtain a Grignard's reagent. This solution was then dripped into a 50 ml THF solution of 6.5 g (20 mmol) of 4'-(4-fluoro-4-silacyclohexyl)-3,4,5-trifluorobiphenyl to obtain 4'-(trans-4-n-propyl-4-silacyclohexyl)-3,4,5-trifluorobiphenyl. The silacyclohexane rings of this product were a mixture of trans and cis isomers. They were separated by means of chromatography to obtain 5.9 g of the trans isomer (yield 91%).

reactant | n-propyl bromide | 20 mmol, 2.5 g | CCCBr | C3H7Br
reactant | magnesium | 21 mmol, 0.5 g | [Mg] | Mg
reactant | 4'-(4-fluoro-4-silacyclohexyl)-3,4,5-trifluorobiphenyl | 20 mmol, 6.5 g | F[SiH]1CCC(CC1)C1=CC=C(C=C1)C1=CC(=C(C(=C1)F)F)F | C17H16F4Si
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 4'-(trans-4-n-propyl-4-silacyclohexyl)-3,4,5-trifluorobiphenyl | yield 91% | C(CC)[Si@@H]1CC[C@H](CC1)C1=CC=C(C=C1)C1=CC(=C(C(=C1)F)F)F | C20H23F3Si
